US09024018B2
8-(Benzo[d]thiazol-2-yl)-3-(methoxymethyl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one (WW-060)
To a mixture of polyphosphate ester (see, e.g., Yalpn et al., Eur. J. Med. Chem., 1992, Vol. 27, pp. 401-406) (1 g) and chloroform (3 mL) was added 3-(methoxymethyl)-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboxylic acid (225 mg; 1 mmol) and 2-aminothiophenol (107 μL; 1 mmol). The mixture was carefully heated to 70° C. for 3.5 hours, then cooled and the chloroform removed under reduced pressure. The residue was added to water (100 mL), which was extracted with ethyl acetate (×3). The combined organic fractions were dried (MgSO4) and concentrated. The crude product was washed with ether/hexane, and purified by column chromatography to give a pale yellow powder (0.007 g; 3%). δH (DMSO d6): 9.03 (1H, s), 8.22 (1H, d, J=7.9), 8.17 (1H, d, J=7.9), 7.61 (1H, td, J=7.7, 1.3), 7.53 (1H, td, J=7.6, 1.2), 5.65 (2H, s), 3.46 (3H, s).

reactant | 3-(methoxymethyl)-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboxylic acid | 1 mmol, 225 mg | COCN1N=NC=2N(C1=O)C=NC2C(=O)O | C7H7N5O4
reactant | 2-aminothiophenol | 1 mmol, 107 μL | NC1=C(C=CC=C1)S | C6H7NS
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
product | 8-(Benzo[d]thiazol-2-yl)-3-(methoxymethyl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one | S1C(=NC2=C1C=CC=C2)C=2N=CN1C2N=NN(C1=O)COC | C13H10N6O2S
